US04382939
1,2,3,4-Tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A stirred suspension of 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (10.0 g, 0.046 moles) in water (10 ml) is cooled in an ice bath. Concentrated sulfuric acid (25 ml) is added, followed after 15 minutes by the dropwise addition of concentrated nitric acid (12 ml). The ice bath is removed and the mixture allowed to warm to room temperature. After 48 hours the mixture is poured over crushed ice, stirred, and made strongly basic by the addition of concentrated ammonium hydroxide. The precipitated product is filtered off, rinsed with water and dried. Recrystallization from acetonitrile gave the product (8.7 g), mp 197°-199° C.

reactant | 1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.046 moles, 10.0 g | CC1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C13H13NO2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 10 ml | O | H2O
product | 1,2,3,4-Tetrahydro-8-methyl-9-nitro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 8.7 g | CC1=CC2=C(C=C1[N+](=O)[O-])C1=C(CNCC1)C(O2)=O | C13H12N2O4
